* C:\Users\krish\Documents\eSim\8_BIT_ADC\8_BIT_ADC.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/09/22 18:56:45

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ krishna_prioenco		
X6  ? Net-_R1-Pad2_ VIN GND ? IN7 VDD ? lm_741		
X1  ? Net-_R2-Pad2_ VIN GND ? IN6 VDD ? lm_741		
X7  ? Net-_R3-Pad2_ VIN GND ? IN5 VDD ? lm_741		
X2  ? Net-_R4-Pad2_ VIN GND ? IN4 VDD ? lm_741		
X4  ? Net-_R5-Pad2_ VIN GND ? IN3 VDD ? lm_741		
X5  ? Net-_R7-Pad2_ VIN GND ? IN1 VDD ? lm_741		
U2  IN7 IN6 IN5 IN4 IN3 IN2 IN1 IN0 Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ adc_bridge_8		
U3  Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ D0 D1 D2 dac_bridge_3		
U6  D0 plot_v1		
U5  D1 plot_v1		
U4  D2 plot_v1		
R1  VREF Net-_R1-Pad2_ 1k		
R2  Net-_R1-Pad2_ Net-_R2-Pad2_ 1k		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ 1k		
R4  Net-_R3-Pad2_ Net-_R4-Pad2_ 1k		
R5  Net-_R4-Pad2_ Net-_R5-Pad2_ 1k		
R6  Net-_R5-Pad2_ Net-_R6-Pad2_ 1k		
R7  Net-_R6-Pad2_ Net-_R7-Pad2_ 1k		
R8  Net-_R7-Pad2_ Net-_R16-Pad1_ 1k		
VDD1  VDD GND 16		
VIN1  VIN GND 2.5		
v1  VREF GND 32		
X8  ? Net-_R16-Pad1_ VIN GND ? IN0 VDD ? lm_741		
R16  Net-_R16-Pad1_ GND 1k		
X3  ? Net-_R6-Pad2_ VIN GND ? IN2 VDD ? lm_741		
U7  VIN plot_v1		

.end
