* c:\users\krish\documents\esim\8_bit_adc\8_bit_adc.cir

.include lm_741.sub
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ krishna_prioenco
x6 ? net-_r1-pad2_ vin gnd ? in7 vdd ? lm_741
x1 ? net-_r2-pad2_ vin gnd ? in6 vdd ? lm_741
x7 ? net-_r3-pad2_ vin gnd ? in5 vdd ? lm_741
x2 ? net-_r4-pad2_ vin gnd ? in4 vdd ? lm_741
x4 ? net-_r5-pad2_ vin gnd ? in3 vdd ? lm_741
x5 ? net-_r7-pad2_ vin gnd ? in1 vdd ? lm_741
* u2  in7 in6 in5 in4 in3 in2 in1 in0 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u3  net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ d0 d1 d2 dac_bridge_3
* u6  d0 plot_v1
* u5  d1 plot_v1
* u4  d2 plot_v1
r1  vref net-_r1-pad2_ 1k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ net-_r16-pad1_ 1k
vdd1  vdd gnd 16
vin1  vin gnd 2.5
v1  vref gnd 32
x8 ? net-_r16-pad1_ vin gnd ? in0 vdd ? lm_741
r16  net-_r16-pad1_ gnd 1k
x3 ? net-_r6-pad2_ vin gnd ? in2 vdd ? lm_741
* u7  vin plot_v1
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] u1
a2 [in7 in6 in5 in4 in3 in2 in1 in0 ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u2
a3 [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [d0 d1 d2 ] u3
* Schematic Name:                             krishna_prioenco, NgSpice Name: krishna_prioenco
.model u1 krishna_prioenco(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=2 in_high=4 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.dc VIN1 0e-00 32e-00 0.4e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d0) v(d1)+6 v(d2)+12 v(vin)+18
.endc
.end
